US06090825
C. 1-[4-(4-Isobutoxymethyl-5-phenyl-oxazol-2-yl)-piperidin-1-yl]-ethanone
A solution of isobutyl alcohol (0.54 mL, 5.8 mmol) in THF (5 mL) is cooled to 0° C. and treated with sodium bis(trimethylsilyl)amide (5.8 mL of a 1 M solution in THF, 5.8 mmol) and stirred for 1 h. A solution of 1-[4-(4-chloromethyl-5-phenyl-oxazol-2-yl)-piperidin-1-yl]-ethanone (1.69 g, 5.3 mmol), prepared as in Part B, in THF (30 mL) is added dropwise, and the mixture is allowed to warm to 23° C., and stirred for 18 h. The reaction mixture is partitioned between EtOAc (150 mL) and H2O (75 mL), and the organic layer is washed with brine (1×100 mL), dried (MgSO4), and concentrated. The residue is purified by chromatography on silica using EtOAc as eluent to afford the title compound as a yellow oil.

reactant | isobutyl alcohol | 5.8 mmol, 0.54 mL | C(C(C)C)O | C4H10O
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1-[4-(4-chloromethyl-5-phenyl-oxazol-2-yl)-piperidin-1-yl]-ethanone | 5.3 mmol, 1.69 g | ClCC=1N=C(OC1C1=CC=CC=C1)C1CCN(CC1)C(C)=O | C17H19ClN2O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-[4-(4-Isobutoxymethyl-5-phenyl-oxazol-2-yl)-piperidin-1-yl]-ethanone | C(C(C)C)OCC=1N=C(OC1C1=CC=CC=C1)C1CCN(CC1)C(C)=O | C21H28N2O3
